US08012974B2
Racemic cis benzyl-(3-methyl-tetrahydro-pyran-4-yl)-amine (1.8 g, 8.768 mmol) was dissolved in 3M HCl (4.4 mL, 13.2 mmol). Pd(OH)2 20 wt % (0.6 g) and EtOH (50 mL) were added and the reaction mixture was hydrogenated in a Parr shaker at 55 psi H2 over the weekend. The palladium was filtered off. HCl 4M in dioxane was added and the solvent was evaporated. The remaining green oil was adsorbed onto SiO2 and purified by SiO2 chromatography (100 g SiO2, DCM/(DCM:MeOH:NH4OH 60:10:1) 100-55% DCM). The fractions containing the product were combined and HCl 4M in dioxane was added. NH4Cl crashed out. The solvent was evaporated. The remaining white semi-solid was taken up in MeOH/Et2O and the salt was filtered off and washed with Et2O. The filtrate was evaporated. The remaining oil was taken up in DCM and was evaporated again to obtain 0.58 of racemic cis 3-methyl-tetrahydro-pyran-4-ylamine hydrochloride as a light yellow solid (43% yield).

reactant | Racemic cis benzyl-(3-methyl-tetrahydro-pyran-4-yl)-amine | 8.768 mmol, 1.8 g | C(C1=CC=CC=C1)N[C@@H]1[C@@H](COCC1)C | C13H19NO
reactant | HCl | 13.2 mmol, 3M, 4.4 mL | Cl | ClH
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
solvent | EtOH | 50 mL | CCO | C2H6O
product | racemic cis 3-methyl-tetrahydro-pyran-4-ylamine hydrochloride | 43% yield | Cl.C[C@@H]1COCC[C@@H]1N | InChI=1S/C6H13NO.ClH/c1-5-4-8-3-2-6(5)7;/h5-6H,2-4,7H2,1H3;1H/t5-,6+;/m1./s1
